US07105563B2
A solution of 5-methoxy-3-[(pyrrol-2-yl)methylene]indolin-2-one; (0.10 g, 0.4 mmol) in dichloromethane (5 mL) was treated with BBr3 solution (2.0 mL of a 1M solution in dichloromethane, 20 mmol, 5.0 eq.). After stirring overnight at ambient temperature, the reaction mixture was concentrated. The resulting oil was chromatographed on SiO2 (5 g) using 1:3 hexane/ethyl acetate to afford 5-hydroxy-3-[(pyrrol-2-yl)methylene]indolin-2-one; (0.04 g); 1H NMR (400 MHz, DMSO-d6) δ 6.30 (m, 1H), 6.60 (m, 2H), 6.78 (m, 1H), 6.98 (m, 1H), 7.32 (m, 1H), 7.58 (m, 1H), 9.00 (s, 1H), 10.60 (s, 1H) ppm.

reactant | 5-methoxy-3-[(pyrrol-2-yl)methylene]indolin-2-one | COC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=CC1 | C14H12N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-hydroxy-3-[(pyrrol-2-yl)methylene]indolin-2-one | OC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=CC1 | C13H10N2O2
